US09169242B2
N-(6-Bromopyridin-3-yl)-2,6-difluorobenzamide
To a (0° C.) cooled and stirred solution of 2-bromo-5-aminopyridine (2.0 g, 11.56 mmol, 1.0 eq) in DCM (25 mL) was added sequentially 2,6-difluorobenzoyl chloride (1.44 mL, 11.56 mmol, 1.0 eq) and pyridine (1.19 mL, 13.87 mmol, 1.2 eq). The resulting mixture was allowed to warm to room temperature and then stirred at the same temperature for 30 min.

reactant | 2-bromo-5-aminopyridine | 11.56 mmol, 2.0 g, 1.0 eq | BrC1=NC=C(C=C1)N | C5H5BrN2
reactant | 2,6-difluorobenzoyl chloride | 11.56 mmol, 1.44 mL, 1.0 eq | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | pyridine | 13.87 mmol, 1.19 mL, 1.2 eq | N1=CC=CC=C1 | C5H5N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(6-Bromopyridin-3-yl)-2,6-difluorobenzamide | BrC1=CC=C(C=N1)NC(C1=C(C=CC=C1F)F)=O | C12H7BrF2N2O
